US07384967B2
3-Cyclopentanesulfanyl-4-nitrotoluene (0.83 g, 70%) was prepared from cyclopentyl mercaptan and 3-fluoro-4-nitrotoluene (0.77 g, 5.0 mmol) following the general procedure A. This was oxidized to 3-cyclopentanesulfonyl-4-nitrotoluene (0.84 g, 90%) following general procedure R. 3-Cyclopentanesulfonyl-4-nitrotoluene was reduced to 2-cyclopentanesulfonyl-4-methyl-aniline (0.53 g, 70%) following general procedure C. 1-(2-Cyclopentanesulfonyl-4-methyl-phenyl)-3-thiazol-2-yl-urea (225 mg, 62%) was prepared from 2-cyclopentanesulfonyl-4-methyl-aniline (239 mg, 1.0 mmol) and 2-aminothiazole (100 mg, 1.0 mmol) following the general procedure D.

reactant | cyclopentyl mercaptan | C1(CCCC1)S | C5H10S
reactant | 3-fluoro-4-nitrotoluene | 5.0 mmol, 0.77 g | FC=1C=C(C=CC1[N+](=O)[O-])C | C7H6FNO2
reactant | 3-cyclopentanesulfonyl-4-nitrotoluene | 0.84 g | C1(CCCC1)S(=O)(=O)C=1C=C(C=CC1[N+](=O)[O-])C | C12H15NO4S
reactant | 2-cyclopentanesulfonyl-4-methyl-aniline | 0.53 g | C1(CCCC1)S(=O)(=O)C1=C(N)C=CC(=C1)C | C12H17NO2S
reactant | 2-cyclopentanesulfonyl-4-methyl-aniline | 1.0 mmol, 239 mg | C1(CCCC1)S(=O)(=O)C1=C(N)C=CC(=C1)C | C12H17NO2S
reactant | 2-aminothiazole | 1.0 mmol, 100 mg | NC=1SC=CN1 | C3H4N2S
product | 1-(2-Cyclopentanesulfonyl-4-methyl-phenyl)-3-thiazol-2-yl-urea | 225 mg, 62% | C1(CCCC1)S(=O)(=O)C1=C(C=CC(=C1)C)NC(=O)NC=1SC=CN1 | C16H19N3O3S2
